US08633186B2
A solution of 3-amino-5-methylthiophene-2-carbonitrile (250 mg, 1.0 eq., 1.81 mmol) and sulfamoyl chloride (2.71 mmol, 1.5 eq., 314 mg) in DMA (5 mL) was stirred at room temperature overnight. Water (30 mL) and NaOH (1.5 eq., 10 N, 2.71 mmol, 271 μL) were added and the mixture was frozen in a dry ice/acetone bath and the volatiles were removed on the lyophilizer. The resulting solid was washed with water and then suspended in EtOH (25 mL, 200 proof). To this suspension was added NaOH (1 N, 2.5 eq., 4.52 mmol, 4.52 mL) and the mixture heated to reflux for 45 minutes. The reaction mixture was cooled to room temperature and quenched with HCl (1 N, 2.5 eq., 4.52 mmol, 4.52 mL). The pH was adjusted to ˜1-2 with 1 N HCl and the volatiles removed on a rotary evaporator. The resulting solid was suspended in water (10 mL), stirred, filtered off, and washed with water. The crude product was dried in a vacuum oven to give 6-methyl-1H-thieno[3,2-c][1,2,6]thiadiazin-4-amine-2,2-dioxide (257 mg) as an off-white powder 1H NMR (400 MHz, DMSO-d6) δ 2.46 (d, J=0.8 Hz, 3H), 6.53 (q, J=0.8 Hz, 1H), 7.75 (br. s, 2H), 11.34 (s, 1H). 1H NMR (400 MHz, CD3OD) δ 2.52 (d, J=0.8 Hz, 3H), 6.55 (q, J=0.8 Hz, 1H). MS 218 (MH+).

reactant | 3-amino-5-methylthiophene-2-carbonitrile | 1.81 mmol, 250 mg, 1.0 eq. | NC1=C(SC(=C1)C)C#N | C6H6N2S
reactant | sulfamoyl chloride | 2.71 mmol, 314 mg, 1.5 eq. | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | NaOH | 2.71 mmol, 10 N, 271 μL, 1.5 eq. | [OH-].[Na+]
reactant | NaOH | 4.52 mmol, 1 N, 4.52 mL, 2.5 eq. | [OH-].[Na+]
reactant | HCl | 4.52 mmol, 1 N, 4.52 mL, 2.5 eq. | Cl | ClH
reactant | HCl | 1 N | Cl | ClH
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | Water | 30 mL | O | H2O
product | 6-methyl-1H-thieno[3,2-c][1,2,6]thiadiazin-4-amine-2,2-dioxide | 257 mg | CC1=CC=2NS(N=C(C2S1)N)(=O)=O | C6H7N3O2S2
